US05760243
2-Methyl-5-phenylisoxazolidine (12.6 g, 77.3 mmol) in EtOH (134 g) is mixed with 5 Pd/C (1.2 g) in a glass pressure reactor. The reactor is warmed to 40°-50° C. and the pressure maintained at 40 psig with H2 until the pressure becomes constant (ca. 24 hours). The mixture is filtered through Celite and the solvent is removed to give N-methyl-3phenyl-3-hydroxypropylamine.

reactant | 2-Methyl-5-phenylisoxazolidine | 77.3 mmol, 12.6 g | CN1OC(CC1)C1=CC=CC=C1 | C10H13NO
solvent | EtOH | 134 g | CCO | C2H6O
catalyst | Pd/C | 1.2 g | [Pd] | Pd
product | N-methyl-3phenyl-3-hydroxypropylamine | CNCCC(O)C1=CC=CC=C1 | C10H15NO
